US08039483B2
Preparation of imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester
Under a nitrogen atmosphere, 7.0 g (55.0 mmol) of (R)-3-quinuclidinol were suspended in 100 ml of CH2Cl2. After cooling the suspension to 0° C., a solution of 1,1′-carbonyldiimidazole (10.7 g, 66.0 mmol) in 150 mL of CH2Cl2 was added. The reaction mixture was stirred at 0° C. for 4 hours, then water was added (100 ml). The organic layer was separated, washed with water, dried over sodium sulphate and the solvent was evaporated under reduced pressure. The residue oil (13.1 g) was used without further purification.

reactant | (R)-3-quinuclidinol | 55.0 mmol, 7.0 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 1,1′-carbonyldiimidazole | 66.0 mmol, 10.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(=O)N2C=NC=C2 | C11H15N3O2
